US09359338B2
Step 3: Synthesis of 5-(3-amino-5-(trifluoromethyl)phenyl)-1,3,4-oxadiazol-2-amine
Add sodium bicarbonate (270 mg, 3.21 mmol) and cyanogen bromide (187 mg, 1.76 mmol) to the solution of 3-amino-5-(trifluoromethyl)benzohydrazide (400 mg, 1.6 mmol) in ethanol (5 mL), reflux for 5 hrs. TLC (PE:EtOAc=1:1) shows the reaction is complete. Concentrate the mixture, partition the residue between EtOAc and water, collect the organic layer, wash with saturated sodium bicarbonate solution, dry over anhydrous sodium sulfate, and concentrate under reduced pressure to afford the crude product. Recrystallization in ethyl acetate yields the pure product (280 mg, 63%).

reactant | sodium bicarbonate | 3.21 mmol, 270 mg | C([O-])(O)=O.[Na+]
reactant | cyanogen bromide | 1.76 mmol, 187 mg | N#CBr | CBrN
reactant | 3-amino-5-(trifluoromethyl)benzohydrazide | 1.6 mmol, 400 mg | NC=1C=C(C(=O)NN)C=C(C1)C(F)(F)F | C8H8F3N3O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-(3-amino-5-(trifluoromethyl)phenyl)-1,3,4-oxadiazol-2-amine | 280 mg, 63% | NC=1C=C(C=C(C1)C(F)(F)F)C1=NN=C(O1)N | C9H7F3N4O
